US05614535
0.74 g of benzyl 2-{1-[3-(4-tert-butoxycarbonylaminomethylphenyl)-2-oxo-5-oxazolidinylcarbonyl]-4-piperazinyl}acetate is stirred in 30 ml of HCl solution in ethyl acetate at room temperature. The precipitate formed is filtered off through suction, washed with a little ethyl acetate and dried. Benzyl 2-{1-[3-(4-aminomethylphenyl)-2-oxo-5-oxazolidinylcarbonyl]-4-piperazinyl}acetate, dihydrochloride, is obtained, m.p. 224°-226°.

reactant | benzyl 2-{1-[3-(4-tert-butoxycarbonylaminomethylphenyl)-2-oxo-5-oxazolidinylcarbonyl]-4-piperazinyl}acetate | 0.74 g | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)N1C(OC(C1)C(=O)N1CCN(CC1)CC(=O)OCC1=CC=CC=C1)=O | C29H36N4O7
reactant | HCl | 30 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl 2-{1-[3-(4-aminomethylphenyl)-2-oxo-5-oxazolidinylcarbonyl]-4-piperazinyl}acetate, dihydrochloride | Cl.Cl.NCC1=CC=C(C=C1)N1C(OC(C1)C(=O)N1CCN(CC1)CC(=O)OCC1=CC=CC=C1)=O | InChI=1S/C24H28N4O5.2ClH/c25-14-18-6-8-20(9-7-18)28-15-21(33-24(28)31)23(30)27-12-10-26(11-13-27)16-22(29)32-17-19-4-2-1-3-5-19;;/h1-9,21H,10-17,25H2;2*1H
